US04977155
A mixture of 0,5 g (2,6 mmol) 5,6-diamino-2,3-dihydroxyquinoxaline and 10 ml water was at 50° C. added a solution of 0,45 g (5,2 mmol) 2,3-butanedione in 5 ml water. The reaction mixture was stirred at 50o for 4 h. After cooling to 25° C., the precipitate was filtered off and washed with water. The crude product was dissolved in 2N sodium hydroxide and reprecipitated with 2N hydrochloric acid to pH 6-7 to give 0,4 g (64%) 2,3-dihydroxy-8,9-dimethylpyrazino(2,3-f)quinoxaline, m.p.>300° C. NMR (DMSO-d6): 7.27 (1H,d), 6.93 (1H,d), 2.07 (6H,s).

reactant | 5,6-diamino-2,3-dihydroxyquinoxaline | 2,6 mmol, 0,5 g | NC1=C2N=C(C(=NC2=CC=C1N)O)O | C8H8N4O2
reactant | 2,3-butanedione | 5,2 mmol, 0,45 g | CC(C(C)=O)=O | C4H6O2
solvent | water | 5 ml | O | H2O
solvent | water | 10 ml | O | H2O
product | 2,3-dihydroxy-8,9-dimethylpyrazino(2,3-f)quinoxaline | 0,4 g, 64% | OC=1C(=NC=2C(=C3N=C(C(=NC3=CC2)C)C)N1)O | C12H10N4O2
